US07812028B2
c) 5-Bromo-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31b, using 5-bromo-6-cyclopropylmethoxy-2-methyl-nicotinic acid and (1R,2R)-2-amino-1-cyclohexanol as starting materials, MS (ISP): 383.1, 385.1 (M+H)+.

reactant | 5-bromo-6-cyclopropylmethoxy-2-methyl-nicotinic acid | BrC=1C(=NC(=C(C(=O)O)C1)C)OCC1CC1 | C11H12BrNO3
reactant | (1R,2R)-2-amino-1-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-Bromo-6-cyclopropylmethoxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-nicotinamide | BrC=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C)OCC1CC1 | C17H23BrN2O3
